US04844732
1,4-dihydro-6-methyl-4-oxo-N,2-diphenyl-1-pentyl-3-pyridinecarboxamide
1 g (3.23 mmol) of 6-methyl-4-oxo-N,2-diphenyl-4-H-pyran-3-carboxamide and 590 mg (6.78 mmol) of benzylamine were dissolved in 10 ml of ethanol, and the resulted mixture was stirred over night at room temperature. Ethanol was removed under vacuo. The crystal residue was recrystallized from ethylacetate to afford 700 mg of the title compound having mp. 164°-165.5° C.

reactant | 6-methyl-4-oxo-N,2-diphenyl-4-H-pyran-3-carboxamide | 3.23 mmol, 1 g | CC1=CC(C(=C(O1)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)=O | C19H15NO3
reactant | benzylamine | 6.78 mmol, 590 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,4-dihydro-6-methyl-4-oxo-N,2-diphenyl-1-pentyl-3-pyridinecarboxamide | 700 mg | CC1=CC(C(=C(N1CCCCC)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)=O | C24H26N2O2
